US08530490B2
Synthesis of 3-(3-(cyclopropylmethoxy)phenyl)pentan-3-amine
To a solution of magnesium (280 mg) in THF (2.5 mL), iodine (10 mg) was added at room temperature. Then, a small amount of a solution of 1-bromo-3-(cyclopropylmethoxy)benzene (2.27 g) obtained according to a method described in the document (Izvestiya akademi Nauk SSSR, Seriya Khimicheskaya, 12, 2752-2755 (1989)) in THF (3.5 mL) was added thereto, and the mixture was stirred at room temperature for 10 minutes until the iodine color disappeared. The remaining amount of the solution of 1-bromo-3-(cyclopropylmethoxy)benzene in THF was added thereto, and the mixture was stirred at room temperature for 1 hour until the magnesium disappeared. To the reaction mixture, a solution of 3-pentanone (1.02 g) in THF (3.0 mL) was added, and the mixture was stirred at room temperature for 2 hours. To the reaction mixture, an aqueous saturated ammonium chloride solution (10 ml) was added at 0° C., and the aqueous layer was extracted with ethyl acetate (20 mL×2). The organic layer was washed with brine (20 mL), dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30% ethyl acetate/hexane). The obtained compound was dissolved in chloroform (20 mL). To the solution, sodium azide (1.7 g) was added. To the reaction mixture, trifluoroacetic acid (3.2 mL) was added dropwise at 0° C., and the mixture was then stirred at room temperature for 1 hour. To the reaction mixture, water (20 mL) was added, and the resultant mixture was then extracted with chloroform (20 mL). The organic layer was washed with an aqueous saturated sodium bicarbonate solution (20 mL), dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (10% ethyl acetate/hexane). The obtained compound was dissolved in methanol (10 mL). To the solution, 10% palladium-carbon (260 mg) was added, and the reaction mixture was stirred at room temperature for 2 hours under a hydrogen atmosphere. The precipitate was removed by filtration through a pad of Celite and washed with methanol (100 mL). Then, the combined filtrate was concentrated under reduced pressure to obtain the title compound (1.70 g) as a crude product.

reactant | iodine | II | I2
reactant | 1-bromo-3-(cyclopropylmethoxy)benzene | BrC1=CC(=CC=C1)OCC1CC1 | C10H11BrO
reactant | magnesium | [Mg] | Mg
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | 3-pentanone | 1.02 g | CCC(CC)=O | C5H10O
product | 3-(3-(cyclopropylmethoxy)phenyl)pentan-3-amine | 1.70 g | C1(CC1)COC=1C=C(C=CC1)C(CC)(CC)N | C15H23NO
